US03966748
Preparation of 3,6-Dihydro-4-(3-methyl-5-isoxazolyl)-α-phenyl-1(2H)-pyridinebutanol
To a 4.1 g. portion of 1-(3-benzoylpropyl)-4-(3-methyl-5-isoxazolyl)pyridinium perchlorate [prepared by the reaction of γ-chlorobutyrophenone and 4-(3-methyl-5-isoxazolyl)pyridine as described in the previous examples] in 200 ml. of methanol is added, portionwise with stirring, 4.1 g. of sodium borohydride. The mixture is allowed to stand at room temperature overnight, evaporated to about 1/2 volume and poured into ice water. The white solid is collected and recrystallized from acetonitrile, m.p. 108°-109°C.

reactant | 1-(3-benzoylpropyl)-4-(3-methyl-5-isoxazolyl)pyridinium perchlorate | Cl(=O)(=O)(=O)[O-].C(C1=CC=CC=C1)(=O)CCC[N+]1=CC=C(C=C1)C1=CC(=NO1)C
reactant | γ-chlorobutyrophenone | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | 4-(3-methyl-5-isoxazolyl)pyridine | CC1=NOC(=C1)C1=CC=NC=C1 | C9H8N2O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 3,6-Dihydro-4-(3-methyl-5-isoxazolyl)-α-phenyl-1(2H)-pyridinebutanol | CC1=NOC(=C1)C=1CCN(CC1)CCCC(O)C1=CC=CC=C1 | C19H24N2O2
